### PR TITLE
feat: add BitVec.[toNat|toFin|toInt]_[sshiftRight|sshiftRight']

### PR DESCRIPTION
**Pull request by tobiasgrosser**
This PR adds `BitVec.[toNat|toFin|toInt]_[sshiftRight|sshiftRight']` plus variants with `of_msb_*`. While at it, we also add `toInt_zero_length` and `toInt_of_zero_length`. In support of our main theorem we add `toInt_shiftRight_lt` and `le_toInt_shiftRight`, which make the main theorem automatically derivable via omega.

We also add four shift lemmas for `Int`: `le_shiftRight_of_nonpos`, `shiftRight_le_of_nonneg`, `le_shiftRight_of_nonneg`, `shiftRight_le_of_nonpos`, as well as `emod_eq_add_self_emod`, `ediv_nonpos_of_nonpos_of_neg `, and`bmod_eq_emod_of_lt `. For `Nat` we add `shiftRight_le`.

Beyond the lemmas directly needed in the proof, we added a couple more to ensure the API is complete.

We also fix the casing of `toFin_ushiftRight` and rename `lt_toInt` to `two_mul_lt_toInt` to avoid `'`-ed lemmas.

### CODE REVIEW

File: src/Init/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -508,12 +513,12 @@ theorem toInt_eq_toNat_of_lt {x : BitVec n} (h : 2 * x.toNat < 2^n) :
     x.toInt = x.toNat := by
   simp [toInt_eq_toNat_cond, h]
 
+
 theorem msb_eq_false_iff_two_mul_lt {x : BitVec w} : x.msb = false ↔ 2 * x.toNat < 2^w := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:517]:
```suggestion
theorem msb_eq_false_iff_two_mul_lt {x : BitVec w} : x.msb = false ↔ 2 * x.toNat < 2^w := by
```

**Comment by tobiasgrosser** [comment]
changelog-library

**Comment by tobiasgrosser** [comment]
This is ready from my side. @bollu, @alexkeizer, @luisacicolini, feel invited to do a first review before we pass it to Kim.

**Comment by tobiasgrosser** [comment]
review-requested

**Comment by tobiasgrosser** [comment]
This is freshly rebased. @kim-em and @hargoniX, a review would be much appreciated.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 2]
```diff
@@ -538,6 +543,16 @@ theorem toInt_eq_toNat_bmod (x : BitVec n) : x.toInt = Int.bmod x.toNat (2^n) :=
     rw [Int.bmod_neg] <;> simp only [←Int.ofNat_emod, toNat_mod_cancel]
     omega
 
+theorem toInt_le_of_msb_true {x : BitVec w} (h : x.msb = true) : x.toInt ≤ 0 := by
```
Comment (hargoniX) [inline src/Init/Data/BitVec/Lemmas.lean:546]: Is this the strongest statement we can get? I would've expected a `< 0`?

File: src/Init/Data/Int/Bitwise/Lemmas.lean [hunk 3]
```diff
@@ -39,4 +39,47 @@ theorem zero_shiftRight (n : Nat) : (0 : Int) >>> n = 0 := by
 theorem shiftRight_zero (n : Int) : n >>> 0 = n := by
   simp [Int.shiftRight_eq_div_pow]
 
+theorem le_shiftRight_of_nonpos {n : Int} {s : Nat} (h : n ≤ 0) : n ≤ n >>> s := by
+  simp only [Int.shiftRight_eq, Int.shiftRight, Int.ofNat_eq_coe]
+  split
+  case _ _ _ m =>
+    simp [Int.ofNat_eq_coe] at h
```
Comment (hargoniX) [inline src/Init/Data/Int/Bitwise/Lemmas.lean:46]: Non terminal simp

Comment (tobiasgrosser) [reply src/Init/Data/Int/Bitwise/Lemmas.lean]: Fixed.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 2 above)
Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean]: Indeed, its `x.toInt < 0`. Fixed.

**Comment by tobiasgrosser** [comment]
Rebased on latest nightly-with-mathlib and addressed @hargoniX's comments.

**Comment by tobiasgrosser** [comment]
awaiting-review

File: src/Init/Data/BitVec/Lemmas.lean [hunk 4]
```diff
@@ -545,6 +550,16 @@ theorem toInt_eq_toNat_bmod (x : BitVec n) : x.toInt = Int.bmod x.toNat (2^n) :=
     rw [Int.bmod_neg] <;> simp only [←Int.ofNat_emod, toNat_mod_cancel]
     omega
 
+theorem toInt_le_of_msb_true {x : BitVec w} (h : x.msb = true) : x.toInt < 0 := by
```
Comment (kim-em) [inline src/Init/Data/BitVec/Lemmas.lean:553]:
```suggestion
theorem toInt_lt_of_msb_true {x : BitVec w} (h : x.msb = true) : x.toInt < 0 := by
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 5]
```diff
@@ -545,6 +550,16 @@ theorem toInt_eq_toNat_bmod (x : BitVec n) : x.toInt = Int.bmod x.toNat (2^n) :=
...
+  simp only [BitVec.toInt]
+  have : 2 * x.toNat ≥ 2 ^ w := msb_eq_true_iff_two_mul_ge.mp h
+  omega
+
+theorem le_toInt_of_msb_false {x : BitVec w} (h : x.msb = false) : 0 ≤ x.toInt := by
```
Comment (kim-em) [inline src/Init/Data/BitVec/Lemmas.lean:558]:
```suggestion
theorem toInt_nonneg_of_msb_false {x : BitVec w} (h : x.msb = false) : 0 ≤ x.toInt := by
```

File: src/Init/Data/BitVec/Lemmas.lean (hunk 4 above)
Comment (kim-em) [reply src/Init/Data/BitVec/Lemmas.lean:553]: Hmm, maybe this should be `toInt_neg_`.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 6]
```diff
@@ -636,6 +659,14 @@ theorem le_toInt {w : Nat} {x : BitVec w} : -2 ^ w ≤ 2 * x.toInt := by
     simp only [Nat.zero_lt_succ, Nat.mul_lt_mul_left, Int.natCast_mul, Int.Nat.cast_ofNat_Int]
     norm_cast; omega
 
+theorem le_toInt' {w : Nat} {x : BitVec w} : -2 ^ (w - 1) ≤ x.toInt := by
```
Comment (kim-em) [inline src/Init/Data/BitVec/Lemmas.lean:662]: Similarly.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 4 above)
Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean]: Fixed.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 7]
```diff
@@ -624,6 +639,14 @@ theorem toInt_lt {w : Nat} {x : BitVec w} : 2 * x.toInt < 2 ^ w := by
     simp only [Nat.zero_lt_succ, Nat.mul_lt_mul_left, Int.natCast_mul, Int.Nat.cast_ofNat_Int]
     norm_cast; omega
 
+theorem toInt_lt' {w : Nat} {x : BitVec w} : x.toInt < 2 ^ (w - 1) := by
```
[the remark this answers is not in the document]
Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean]: Done.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 6 above)
Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean]: Done. Some of these have been added earlier today in https://github.com/leanprover/lean4/commit/cdfec6971fa24a6509d9ca21ac45b9b3132255d9, so adding deprecated seems unnecessary.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 5 above)
Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean]: Fixed.

**Comment by tobiasgrosser** [comment]
@kim-em, I addressed your comments.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 8]
```diff
@@ -2006,11 +2025,118 @@ theorem getMsbD_sshiftRight {x : BitVec w} {i n : Nat} :
...
+    have := @le_toInt_shiftRight w x n
+    norm_cast at *
+    exact Int.bmod_eq_self_of_le (by omega) (by omega)
+
 /-! ### sshiftRight reductions from BitVec to Nat -/
 
 @[simp]
 theorem sshiftRight_eq' (x : BitVec w) : x.sshiftRight' y = x.sshiftRight y.toNat := rfl
 
+theorem toNat_sshiftRight_of_msb_true' {x y : BitVec w} (h : x.msb = true) :
```
Comment (kim-em) [inline src/Init/Data/BitVec/Lemmas.lean:2106]: Can we move all the primes on these lemma names onto `sshiftRight`?

Comment (kim-em) [reply src/Init/Data/BitVec/Lemmas.lean:2106]: (I see there is some precedent, but it looks wrong to me.)

Comment (kim-em) [inline src/Init/Data/BitVec/Lemmas.lean:2106]: I'm skeptical of the need for these theorems at all. The simp normal form is to eliminate `sshiftRight'`, and the point of that is to avoid having API about the somewhat-dubious-to-begin-with function.

File: src/Init/Data/Int/DivMod/Lemmas.lean [hunk 9]
```diff
@@ -909,6 +912,9 @@ theorem le_of_mul_le_mul_right {a b c : Int} (w : b * a ≤ c * a) (h : 0 < a) :
 protected theorem ediv_le_of_le_mul {a b c : Int} (H : 0 < c) (H' : a ≤ b * c) : a / c ≤ b :=
   le_of_mul_le_mul_right (Int.le_trans (Int.ediv_mul_le _ (Int.ne_of_gt H)) H') H
 
+protected theorem ediv_nonpos_of_nonpos_of_pos {n s : Int} (h : n ≤ 0) (h2 : 0 < s) : n / s ≤ 0 :=
```
Comment (kim-em) [inline src/Init/Data/Int/DivMod/Lemmas.lean:915]: `..._of_neg`?

File: src/Init/Data/Int/DivMod/Lemmas.lean [hunk 10]
```diff
@@ -2263,6 +2269,9 @@ theorem bmod_lt {x : Int} {m : Nat} (h : 0 < m) : bmod x m < (m + 1) / 2 := by
       exact Int.sub_neg_of_lt this
     · exact Int.le.intro_sub _ rfl
 
+theorem bmod_eq_of_lt {x : Int} {m : Nat} (hx : x % m < (m + 1) / 2) : bmod x m = x % m := by
```
Comment (kim-em) [inline src/Init/Data/Int/DivMod/Lemmas.lean:2272]: `bmod_eq_emod_of_lt`

File: src/Init/Data/Int/DivMod/Lemmas.lean (hunk 9 above)
Comment (tobiasgrosser) [reply src/Init/Data/Int/DivMod/Lemmas.lean]: Resolved.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 8 above)
Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean]: Fixed.

Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean]: The simp-normal-form of eliminating `sshiftRight'` might not be optimal, as it introduces at toNat that breaks bv_decide. Given that these do not seem to cause trouble, maybe we can still add these. If not, just let me know and I drop them.

**Comment by tobiasgrosser** [comment]
@kim-em, all comments addressed.
